US04060613
3-(1-Pyrrolidinyl)-1-(1-naphthyloxy)-2-propanol (3; Ar = 1-naphthyl and NR2R3 = 1-pyrrolidinyl)
A solution of 1,2-epoxy-3-(1-naphthyloxy)propane (62.0 g) and the amine of formula NHR2R3, pyrrolidine (23.5 g), in methanol (250 ml) is heated at reflux for 2 hours. The reaction mixture is concentrated to dryness. The oily residue is crystallized from chloroform and diethyl ether by the addition of hexane to give the title compound, mp 68°-70° C.

reactant | 1,2-epoxy-3-(1-naphthyloxy)propane | 62.0 g | O1CC1COC1=CC=CC2=CC=CC=C12 | C13H12O2
reactant | pyrrolidine | 23.5 g | N1CCCC1 | C4H9N
solvent | methanol | 250 ml | CO | CH4O
product | 3-(1-Pyrrolidinyl)-1-(1-naphthyloxy)-2-propanol | N1(CCCC1)CC(COC1=CC=CC2=CC=CC=C12)O | C17H21NO2
